US07737149B2
Oxalyl chloride (0.533 mL, 6.11 mmol) was added dropwise to a stirred suspension of 4-(methoxycarbonyl)benzoic acid (1 g, 5.55 mmol) in DCM (20 mL) under nitrogen. The resulting suspension was stirred at room temperature for 30 mins. DMF (0.05 mL) was added dropwise under nitrogen. The resulting suspension was stirred for 90 mins. A solution of 1-methylpiperazine (0.554 mL, 5.00 mmol) and pyridine (1.211 mL, 14.99 mmol) in DCM (15 mL) was added dropwise at 0° C., over a period of 60 mins under nitrogen. The resulting solution was stirred at room temperature for 3 h. The reaction mixture was evaporated to dryness to afford the crude product (1.791 g) as a dark orange solid. The solid was redissolved in DCM and washed with NaHCO3. The organic layer was evaporated to dryness to afford methyl 4-(4-methylpiperazine-1-carbonyl)benzoate (0.890 g, 61.1%) as an orange gum, which solidified on standing. Used without further purification.

reactant | Oxalyl chloride | 6.11 mmol, 0.533 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(methoxycarbonyl)benzoic acid | 5.55 mmol, 1 g | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | 1-methylpiperazine | 5.00 mmol, 0.554 mL | CN1CCNCC1 | C5H12N2
reactant | pyridine | 14.99 mmol, 1.211 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.05 mL | CN(C)C=O | C3H7NO
product | methyl 4-(4-methylpiperazine-1-carbonyl)benzoate | 0.890 g, 61.1% | CN1CCN(CC1)C(=O)C1=CC=C(C(=O)OC)C=C1 | C14H18N2O3
